US07534797B2
7-Chloro-4-methoxy-2-phenylquinazoline
A flask containing 4,7-dichlorquinazoline (250 mg, 0.91 mmol) equipped with a reflux condenser was evacuated and refilled with Ar several times. MeONa (2 mL, 25% wt in MeOH, 8.7 mmol) and anh. MeOH (20 mL) were added and the reaction mixture was heated to reflux under Ar for 5 h. The reaction was cooled to rt and stored at rt overnight then partitioned between DCM (80 mL) and H2O (10 mL). The aqueous layer was extracted with DCM (1×). The combined organics were washed (brine), dried (Na2SO4) and concentrated under reduced pressure to provide the title compound as an off-white solid; 1H NMR (400 MHz, CDCl3) δ 8.55-8.62 (m, 2H), 8.08 (d, J=9.2 Hz, 1H), 7.99 (d, J=2.0 Hz, 1H), 7.52-7.48 (m, 3H), 7.45 (dd, J=2.0 Hz, 8.8 Hz, 1H), 4.28 (s, 3H).

reactant | 4,7-dichlorquinazoline | 0.91 mmol, 250 mg | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | MeONa | 8.7 mmol, 2 mL | CO[Na]
solvent | MeOH | 20 mL | CO | CH4O
product | 7-Chloro-4-methoxy-2-phenylquinazoline | ClC1=CC=C2C(=NC(=NC2=C1)C1=CC=CC=C1)OC | C15H11ClN2O
